US04839360
To 4.44 g of 4-(4-methoxybenzoyl)butanoic acid was added a solution of 0.8 g of sodium hydroxide in 30 ml of water, and to this solution was added 1.5 g of sodium borohydride, followed by stirring of the mixture at room temperature for 24 hours. The mixture was neutralized with diluted hydrochloric acid, extracted with ether, washed with water and dried, followed by evaporation of the solvent to give 4.4 g of 5-hydroxy-5-(4-methoxyphenyl)pentanoic acid as yellow oily product.

reactant | 4-(4-methoxybenzoyl)butanoic acid | 4.44 g | COC1=CC=C(C(=O)CCCC(=O)O)C=C1 | C12H14O4
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 5-hydroxy-5-(4-methoxyphenyl)pentanoic acid | 4.4 g | OC(CCCC(=O)O)C1=CC=C(C=C1)OC | C12H16O4
